US07550495B2
Step C: N-(4-fluoro-3-nitrophenyl)-N-methylacetamide
Sodium hydride (4.22 g, 60%, 106 mmol) was added portionwise to a solution of N-(4-fluoro-3-nitrophenyl)acetamide (13.9 g, 70 mmol) in THF (200 mL) at 0° C. Stirring for 20 min, iodomethane (18.5 g, 130 mmol) was added. The reaction mixture was stirred at room temperature for 2 h, quenched with saturated NaHCO3 (30 mL) and extracted with EtOAc (3×100 mL). The combined organic phases were washed with saturated NaCl (2×50 mL). After filtration and concentration, 13.1 g (88%) of the title compound was obtained as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-D): δ 1.92 (s, 3 H), 3.30 (s, 3 H), 7.38 (s, 1 H), 7.52 (s, 1 H), 7.95 (s, 1 H).

reactant | Sodium hydride | 106 mmol, 4.22 g | [H-].[Na+]
reactant | N-(4-fluoro-3-nitrophenyl)acetamide | 70 mmol, 13.9 g | FC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C8H7FN2O3
reactant | iodomethane | 130 mmol, 18.5 g | IC | CH3I
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-(4-fluoro-3-nitrophenyl)-N-methylacetamide | 13.1 g, 88% | FC1=C(C=C(C=C1)N(C(C)=O)C)[N+](=O)[O-] | C9H9FN2O3
